US06441017B1
Step H: (R)-3-(tert-Butoxycarbonylamino)-1-[7-(tert-butyldimethylsilyloxy) naphthalen-1-yl]pyrrolidine
(R)-3-(tert-Butoxycarbonylamino)-1-[7-(tert-butyldimethylsilyloxy) naphthalen-1-yl]-2-thioxopyrrolidine, as described above in Step G, (1.04 g, 2.19 mmol) was dissolved in EtOH (100 mL) and Raney Ni (5 g of a slurry in EtOH) was added. The mixture was stirred at ambient temperature for 18 hours, then an additional portion of Raney Ni (3 g of a slurry in EtOH) was added. After a further 4 hours stirring, the reaction mixture was filtered through a pad of celite, washing with EtOH. The filtrate was concentrated in vacuo to provide the desired product.

reactant | (R)-3-(tert-Butoxycarbonylamino)-1-[7-(tert-butyldimethylsilyloxy) naphthalen-1-yl]-2-thioxopyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1C(N(CC1)C1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)=S | C25H36N2O3SSi
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Ni | [Ni] | Ni
product | (R)-3-(tert-Butoxycarbonylamino)-1-[7-(tert-butyldimethylsilyloxy) naphthalen-1-yl]pyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1CN(CC1)C1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C | C25H38N2O3Si
